US06921759B2
Step 2: Preparation of 4-fluoro-2-(methylthio)benzamide
To a solution of 4-fluoro-2-(methylthio)benzoic acid (8.1 g, 43.6 mmol) in degassed DMF (100 mL) under nitrogen was added ammonium chloride (4.66 g, 87.2 mmol) followed by 1-hydroxy-7-azabenzotriazole (11.87 g, 87.2 mmol) and N,N,N-diisopropylethylamine (30.38 mL, 174.4 mmol). To this mixture was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride and the reaction was stirred for 16 hour. LCMS analysis indicated that the reaction was complete. The DMF was removed in vacuo and the residue was partitioned between methylene chloride (800 mL) and 5% aqueous HCl (400 ml). The organic phase was washed with water (400 mL), saturated sodium bicarbonate solution (400 mL), and brine (400 mL). The organics were dried over Na2SO4, filtered, and reduced to a small volume in vacuo. The product crystallized upon solvent reduction. The crystals were filtered and dried in vacuo to afford the title compound.

reactant | 4-fluoro-2-(methylthio)benzoic acid | 43.6 mmol, 8.1 g | FC1=CC(=C(C(=O)O)C=C1)SC | C8H7FO2S
reactant | ammonium chloride | 87.2 mmol, 4.66 g | [Cl-].[NH4+]
reactant | 1-hydroxy-7-azabenzotriazole | 87.2 mmol, 11.87 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-fluoro-2-(methylthio)benzamide | FC1=CC(=C(C(=O)N)C=C1)SC | C8H8FNOS
